US07723333B2
4-(Trifluoromethoxy)phenyl N-(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)-beta-alaninate
The title compound was prepared from 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 4-(trifluoromethoxy)phenyl β-alaninate in a similar manner as described for Example 164. Mass Spectrum: [M+H]+ 513.12, [M−H]− 511.16.

reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 4-(trifluoromethoxy)phenyl β-alaninate | NCCC(=O)OC1=CC=C(C=C1)OC(F)(F)F | C10H10F3NO3
product | 4-(Trifluoromethoxy)phenyl N-(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)-beta-alaninate | C(C)(C)(C)N1S(C(=C(C1=O)NCCC(=O)OC1=CC=C(C=C1)OC(F)(F)F)C1=CC=CC=C1)(=O)=O | C23H23F3N2O6S
